US07595327B2
Methyl (1S,2R)-1-ethyl-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate (315 mg, 0.653 mmol) was combined with aqueous 5M sodium hydroxide solution (0.65 mL, 3.3 mmol) in THF, with MeOH added to homogenize the mixture. This solution was stirred at 50° C. for 5d, after which triethylamine hydrochloride (540 mg, 3.9 mmol) was added. The heterogeneous mixture was concentrated, and chased twice with methanol and twice with benzene to give (1S,2R)-1-ethyl-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid as a white solid that was carried on without further purification. The solid was combined with BOP (349 mg, 0.790 mmol), hydroxylamine hydrochloride (100 mg, 1.43 mmol) and triethylamine (0.45 mL) in DMF (3 mL) and heated at 50° C. overnight. Additional BOP (362 mg, 0.819 mmol), hydroxylamine hydrochloride (150 mg, 2.1 mmol) and Et3N (0.3 mL) were then added and the reaction was stirred at 50° C. overnight. The reaction was still incomplete and more BOP (750 mg, 1.70 mmol), hydroxylamine hydrochloride (333 mg, 4.76 mol) and Et3N (0.6 mL) were added. After 5 h the reaction mixture was diluted with brine and extracted three times with ethyl acetate. The combined organic extracts were dried over Na2SO4, concentrated, and purified via HPLC, eluting with a gradient of 15-100% MeCN/H2O (10 min) to give (1S,2R)-N-hydroxy -1-ethyl-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxamide (162 mg, 0.331 mmol, 51%) as a colorless solid. LCMS (M−H): 1.81 min, 483.8; 1H NMR (400 MHz, ACETONITRILE-D3) δ ppm 0.67 (t, J=7.45 Hz, 3H) 1.08-1.20 (m, 2H) 1.31-1.42 (m, 2H) 1.49-1.60 (m, 3H) 1.82-1.87 (m, 2H) 2.56-2.58 (m, 3H) 3.19-3.28 (m, 1H) 5.49-5.52 (m, 2H) 6.23 (d, J=8.59 Hz, 1H) 7.08-7.13 (m, 2H) 7.42 (s, 1H) 7.48 (td, J=7.64, 1.39 Hz, 1H) 7.64 (ddd, J=8.40, 6.88, 1.39 Hz, 1H) 7.70-7.75 (m, 2H) 7.91 (m, 2H).

reactant | Methyl (1S,2R)-1-ethyl-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate | 0.653 mmol, 315 mg | C(C)[C@]1([C@@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)OC | C26H30N2O5S
reactant | sodium hydroxide | 3.3 mmol, 5M, 0.65 mL | [OH-].[Na+]
reactant | MeOH | CO | CH4O
reactant | triethylamine hydrochloride | 3.9 mmol, 540 mg | Cl.C(C)N(CC)CC
solvent | THF | C1CCOC1 | C4H8O
product | (1S,2R)-1-ethyl-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid | C(C)[C@]1([C@@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)O | C25H28N2O5S
